US04657913
1-Cyclopropyl-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-5,6,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (A)
To 1.0 g (3.32 mmol) of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 9 ml of acetonitrile was added 0.5 g (one equivalent) of 1,8-diazabicyclo[5.4.0]undec-7-ene and 0.42 g of N-ethyl-3-pyrrolidinemethanamine in 3 ml additional acetonitrile. The mixture was heated at 60° C. for four hours and stirred at 25° C. for 18 hours. The mixture was filtered and the solids washed with diethyl ether to give 1.12 g of the title compound, mp 247°-248° C.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.32 mmol, 1.0 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.5 g, one equivalent | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-ethyl-3-pyrrolidinemethanamine | 0.42 g | C(C)NCC1CNCC1 | C7H16N2
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-5,6,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.12 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(CC1)CNCC)F)F)=O)C(=O)O | C20H22F3N3O3
